US05045583
O-Allyl-N,N-dioctadecylhydroxylamine
Into a cooled solution of 5.0 g (9 mmol) of N-allyl-N,N-dioctadecylamine in 50 ml of methylene chloride at 0° C. under a nitrogen atmosphere is added dropwise with stirring a solution of 1.54 g (9 mmol) of 85% active m-chloroperbenzoic acid in 50 ml of methylene chloride. After the addition is complete (approximately 15 minutes), the resultant solution is allowed to warm to ambient temperature (about 22°-24° C.). The reaction is complete after about 5 hours when TLC analysis (silica gel, 19:1 v/v ethyl acetate:methanol)indicates the starting material has completely reacted. The reaction mixture is transferred to a separatory funnel and washed sequentially with three 50 ml portions of 10% aqueous sodium hydroxide solution and then with 100 ml of distilled water. The organic layer is dried over anhydrous sodium sulfate and heated under reflux at approximately 40° C. for two hours. The resultant solution is concentrated in vacuo and the residue is purified by flash chromatography (silica gel, 94:6 v/v hexane:ethyl acetate eluent) to give 3.3 g (64% yield) of the title compound as a white solid melting at 62°-65° C.

reactant | N-allyl-N,N-dioctadecylamine | 9 mmol, 5.0 g | C(C=C)N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | C39H79N
reactant | m-chloroperbenzoic acid | 9 mmol, 1.54 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methanol | CO | CH4O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | O-Allyl-N,N-dioctadecylhydroxylamine | 3.3 g, 64% yield | C(C=C)ON(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | C39H79NO
